
*1:10 transformer: +Pri,-Pri,+Sec,-Sec
.SUBCKT X1to10 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC 10
EVCVS 8 9 5 2 10
RPRI  1 7 .1
RSEC  8 3 .1
LLEAK 7 5 1uH
LMAGNET 6 5 1uH
.ENDS X1to10

*1:5 transformer: +Pri,-Pri,+Sec,-Sec
.SUBCKT X1to5 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC 5
EVCVS 8 9 5 2 5
RPRI  1 7 .1
RSEC  8 3 .1
LLEAK 7 5 1uH
LMAGNET 6 5 1uH
.ENDS X1to5

*1:2 transformer: +Pri,-Pri,+Sec,-Sec
.SUBCKT X1to2 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC 2
EVCVS 8 9 5 2 2
RPRI  1 7 .1
RSEC  8 3 .1
LLEAK 7 5 1uH
LMAGNET 6 5 1uH
.ENDS X1to2

*1:1 transformer: +Pri,-Pri,+Sec,-Sec
.SUBCKT X1to1 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC 1
EVCVS 8 9 5 2 1
RPRI  1 7 .1
RSEC  8 3 .1
LLEAK 7 5 1uH
LMAGNET 6 5 1uH
.ENDS X1to1

*5:1 transformer: +Pri,-Pri,+Sec,-Sec
.SUBCKT X5to1 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC .2
EVCVS 8 9 5 2 .2
RPRI  1 7 .1
RSEC  8 3 .1
LLEAK 7 5 1uH
LMAGNET 6 5 1uH
.ENDS X5to1

*10:1 transformer: +Pri,-Pri,+Sec,-Sec
.SUBCKT X10to1 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC .1
EVCVS 8 9 5 2 .1
RPRI  1 7 .1
RSEC  8 3 .1
LLEAK 7 5 1uH
LMAGNET 6 5 1uH
.ENDS X10to1
